US07384955B2
Step B. N-[1-(cyclobutylmethyl)-2-[(4-ethoxyphenyl)methyl]-1H-pyrrolo[2,3-b]pyridin-5-yl]-2,2-dimethyl-propanamide
To a solution of N-[6-[(cyclobutylmethyl)amino]-5-methyl-3-pyridinyl]-2,2-dimethyl-propanamide (2.0 g, 7.26 mmol) in THF (70 ml) at −78° C. was added n-butyl lithium (12.7 mL of 2.0 M solution in cyclohexane, 25.4 mmol). The mixture was stirred for one hour at −20° C. and then cooled to −78° C. To this reaction mixture was cannulated to a solution of methyl 4-ethoxy-benzeneacetate (2.3 g, 11.6 mmol) in THF (50 mL) at −78° C. After stirring for 3 hours at room temperature, the mixture was quenched with NaHCO3 saturated aqueous solution (200 ml) and diluted with EtOAc (100 mL). The phases were separated and the aqueous phase was back-extracted with additional EtOAc (100 mL). The organic phases were combined, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified using silica gel flash chromatography ([3% MeOH+0.5% NH4OHaq] in CH2Cl2) to provide 650 mg of the title compound N-[1-(cyclobutylmethyl)-2-[(4-ethoxyphenyl)methyl]-1H-pyrrolo[2,3-b]pyridin-5-yl]-2,2-dimethyl-propanamide. 1H NMR (400 MHz, DMSO-D6) δ 1.21 (s, 9 H) 1.29 (t, J=7.03 Hz, 3 H) 1.77 (m, 6 H) 2.69 (m, 1 H) 3.97 (q, J=7.03 Hz, 2 H) 4.06 (s, 2 H) 4.15 (d, J=7.23 Hz, 2 H) 5.99 (s, 1 H) 6.86 (d, J=8.59 Hz, 2 H) 7.14 (d, J=8.59 Hz, 2 H) 7.98 (d, J=2.34 Hz, 1 H) 8.21 (d, J=2.34 Hz, 1 H) 9.21 (s, 1 H). MS (ESI) (M+H)+: 421.

reactant | N-[6-[(cyclobutylmethyl)amino]-5-methyl-3-pyridinyl]-2,2-dimethyl-propanamide | 7.26 mmol, 2.0 g | C1(CCC1)CNC1=C(C=C(C=N1)NC(C(C)(C)C)=O)C | C16H25N3O
reactant | n-butyl lithium | 25.4 mmol, 2.0 M, 12.7 mL | C(CCC)[Li]
reactant | methyl 4-ethoxy-benzeneacetate | 11.6 mmol, 2.3 g | C(C)OC1=CC=C(C=C1)CC(=O)OC | C11H14O3
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[1-(cyclobutylmethyl)-2-[(4-ethoxyphenyl)methyl]-1H-pyrrolo[2,3-b]pyridin-5-yl]-2,2-dimethyl-propanamide | 650 mg | C1(CCC1)CN1C(=CC=2C1=NC=C(C2)NC(C(C)(C)C)=O)CC2=CC=C(C=C2)OCC | C26H33N3O2
